Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Lipitor
 
Attending: ___.
 
Chief Complaint:
Right leg erythema
 
Major Surgical or Invasive Procedure:
Incision and drainage of right leg wound (___)
PICC line placement (___)

 
History of Present Illness:
Pt is ___ y/o M with h/o peripheral vascular disease s/p right 
common femoral artery to below-knee popliteal artery bypass 
graft for claudication one month ago who now presents with 
worsening erythema and swelling surrounding his incision ___ the 
area below his knee.  Pt states that the erythema and swelling 
has been present for a few weeks.  He has also noticed some 
purulent drainage from the incision over the past few days.  Pt 
has also started noticing some discomfort behind his right knee 
when he ambulates.  Pt was started on abx a few days ago and 
presented to ED today when erythema did not improve.  Pt was 
febrile to 101 ___ ED today.  No headaches, dizziness, chest 
pain,
shortness of breath, cough, abd pain, nausea/vomiting, diarrhea, 
or dysuria.  Pt's claudication has improved since the surgery. 
 
Past Medical History:
PMH: Hypercholesterolemia, HTN, COPD, GERD  
PSH: Appendectomy ___, excision of squamous cell cancer ___  

 
Social History:
___
Family History:
Non-contributory

 
Physical Exam:
PE:
T 101  P 95  BP 128/51  R 16  SaO2 96%
Gen: NAD
Heent: no scleral icterus
Lungs: clear
Heart: RRR
Abd: soft, nontender, nondistended
Extrem: right leg 2+ edema, moderate erythema surrounding 
incision at area below knee with some purulent drainage from 
incision, 2+ femoral pulses, right DP 1+, ___ 2+, graft palpable; 
left ___ dopplerable

 
Pertinent Results:
___ 05:46PM BLOOD WBC-16.6* RBC-3.56* Hgb-10.8* Hct-31.5* 
MCV-89 MCH-30.4 MCHC-34.4 RDW-12.9 Plt ___
___ 09:45AM BLOOD WBC-11.8* RBC-3.34* Hgb-9.9* Hct-29.5* 
MCV-88 MCH-29.5 MCHC-33.4 RDW-12.7 Plt ___
___ 05:50AM BLOOD WBC-13.5* RBC-3.18* Hgb-9.7* Hct-27.7* 
MCV-87 MCH-30.5 MCHC-35.0 RDW-12.7 Plt ___
___ 05:49AM BLOOD WBC-7.5 RBC-3.07* Hgb-9.3* Hct-27.2* 
MCV-88 MCH-30.3 MCHC-34.3 RDW-12.7 Plt ___
___ 05:46PM BLOOD Glucose-170* UreaN-40* Creat-1.6* Na-139 
K-3.8 Cl-102 HCO3-25 AnGap-16
___ 09:45AM BLOOD Glucose-205* UreaN-31* Creat-1.3* Na-138 
K-3.9 Cl-102 HCO3-24 AnGap-16
___ 05:50AM BLOOD Glucose-122* UreaN-25* Creat-1.2 Na-138 
K-3.8 Cl-102 HCO3-24 AnGap-16
___ 05:49AM BLOOD Glucose-134* UreaN-19 Creat-0.9 Na-140 
K-4.1 Cl-106 HCO3-26 AnGap-12
___ 09:45AM BLOOD Calcium-8.9 Phos-2.8 Mg-1.8
___ 05:50AM BLOOD Calcium-8.8 Phos-3.2 Mg-1.8
___ 05:49AM BLOOD Calcium-8.4 Phos-3.3 Mg-2.2

___ RLE Ultrasound:
1. No right lower extremity DVT. 
2. Approximately 8 cm long fluid collection at the site of 
recent surgery ___ the medial right upper calf, could represent 
postoperative seroma versus hematoma. Superinfection of this 
fluid collection cannot be excluded by ultrasound. 

___ Right lower leg swab
                            **FINAL REPORT ___
   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    HEAVY GROWTH. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         Rifampin should not be used alone for therapy. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
______________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------   =>8 R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------     2 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------   <=1 S

___ Right wound incision swab
   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    MODERATE GROWTH. 
         SENSITIVITIES PERFORMED ON CULTURE # ___-___ ___. 

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED.

 
Brief Hospital Course:
Patient is a ___ male who was seen ___ the ED on ___ 
for his right leg wound erythema. He had a right lower extremity 
ultrasound done, which revealed no DVT. His wound was also 
cultured. His creatinine was also elevated to 1.6 on admission. 
He was admitted to the vascular surgery service and started on 
IV Vancomycin and PO Cipro/Flagyl for antibiotic coverage and 
daily labs for monitoring of his creatinine. Overnight, he 
spiked a temp of 101.0. On ___, he spiked another fever to 
102.0; he was pan-cultured, which eventually showed no growth ___ 
his blood or urine, and a CXR showed no evidence of pneumonia. 
On ___, a bedside incision and drainage was done with 
drainage of purulent exudate; the wound was cultured again. The 
previous wound culture revealed MRSA sensitive to vancomycin. 
Thus PO Cipro/Flagyl was discontinued, and a PICC line was 
placed for longer-term IV access for IV Vancomycin. From ___ 
to ___, the patient remained afebrile with improved pain 
from the wound area, BID wet-to-dry dressing changes, continued 
antibiotics, and improving creatinine. By the time of discharge 
on ___, patient was doing well, pain controlled, ambulating, 
voiding, tolerating regular diet. He was discharged home with 
___ services for wound care and IV vancomycin administration via 
the PICC line. His daughter (who is a ___) was also contacted 
and agreed to assist her father with his care, as he lives 
alone.
 
Medications on Admission:
zetia 10 mg daily
advair 250/50 1 puff bid
gabapentin 600 mg qHS
lisinopril 40 mg daily
metoprolol 12.5 mg bid
niacin 250 mg daily
spiriva 18 mcg daily
asa 162mg daily

 
Discharge Medications:
1. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
2. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.
Disp:*60 Capsule(s)* Refills:*2*
3. Aspirin 81 mg Tablet, Chewable Sig: Two (2) Tablet, Chewable 
PO DAILY (Daily).  
4. Lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day.  
5. Ezetimibe 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Tiotropium Bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
7. Niacin 250 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).  
8. Lasix 40 mg Tablet Sig: One (1) Tablet PO once a day.  
9. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).  
10. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every ___ hours as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
11. Gabapentin 300 mg Capsule Sig: Two (2) Capsule PO HS (at 
bedtime).  
12. Vancomycin 1,000 mg Recon Soln Sig: One (1) gram Intravenous 
once a day for 9 days.
Disp:*9 1,000 mg Recon Soln* Refills:*0*
13. Normal Saline Flush 0.9 % Syringe Sig: Ten (10) mL Injection 
once a day as needed for line flush: Flush PICC line with 10mL 
normal saline before and after giving vancomycin.
Disp:*30 syringes* Refills:*0*
14. Heparin Flush 10 unit/mL Kit Sig: Two (2) mL Intravenous 
once a day as needed for line flush: Heparin Flush (10 units/ml) 
2 mL IV PRN line flush 
PICC, heparin dependent: Flush with 10mL Normal Saline followed 
by Heparin as above daily and PRN per lumen.  .
Disp:*30 flushes* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right leg wound infection

 
Discharge Condition:
Good

 
Discharge Instructions:
Return to the ER if: 
* If you are vomiting and cannot keep ___ fluids or your 
medications. 
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling, bleeding 
or discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.
* Any serious change ___ your symptoms, or any new symptoms that 
concern you.
* Please resume all regular home medications and take any new 
meds as ordered. 
* Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high ___ fiber.
* ___ nursing services will help you with your wound dressing 
changes and antibiotic administration.
* You will be going home with a PICC line for antibiotics.
 
Followup Instructions:
___